US08809369B2
To a suspension of 60% sodium hydride (176 mg, 4.4 mmol) in N,N-dimethylformamide (3 mL) was added cyclopropanesulfonic acid amide (530 mg, 4.4 mmol) at room temperature. The resulting mixture was stirred at 25° C. for 1 h to afford Solution A29. A solution of 2-[2-chloro-5-(2-oxo-oxazolidin-3-yl)-phenyl]-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid (250 mg, 0.62 mmol) and 1,1′-carbonyldiimidazole (203 mg, 1.25 mmol) in N,N-dimethylformamide (2 mL) was stirred at 70° C. for 1 h and cooled to room temperature to afford Solution B29. Solution B29 was added to Solution A29 and the resulting mixture was stirred at 25° C. for 1 h. To the reaction mixture was added water (0.5 mL). The mixture was filtered to remove the insoluble solid, and the filtrate was purified by Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded cyclopropanesulfonic acid {2-[2-chloro-5-(2-oxo-oxazolidin-3-yl)-phenyl]-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carbonyl}-amide (85 mg, 27%) as a white solid: MS (ESI) M+1=504.0.

reactant | sodium hydride | 4.4 mmol, 176 mg | [H-].[Na+]
reactant | cyclopropanesulfonic acid amide | 4.4 mmol, 530 mg | C1(CC1)S(=O)(=O)N | C3H7NO2S
reactant | 2-[2-chloro-5-(2-oxo-oxazolidin-3-yl)-phenyl]-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid | 0.62 mmol, 250 mg | ClC1=C(C=C(C=C1)N1C(OCC1)=O)C1NC2=CC=C(C=C2C(C1)(C)C)C(=O)O | C21H21ClN2O4
reactant | 1,1′-carbonyldiimidazole | 1.25 mmol, 203 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | 0.5 mL | O | H2O
product | cyclopropanesulfonic acid {2-[2-chloro-5-(2-oxo-oxazolidin-3-yl)-phenyl]-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carbonyl}-amide | 85 mg, 27% | ClC1=C(C=C(C=C1)N1C(OCC1)=O)C1NC2=CC=C(C=C2C(C1)(C)C)C(=O)NS(=O)(=O)C1CC1 | C24H26ClN3O5S
